US07781431B2
Step 12: 5-(4-chlorophenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid
A solution (0.5 M) of methyl 4-(tert-butoxycarbonyl)-5-(4-chlorophenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in DCM/TFA (1:1) was stirred at RT for 1 h. Evaporation of the solvent gave a solid that was dissolved in MeOH. The resulting solution (0.1N) was treated with aqueous NaOH (1 N solution, 12 eq.). The mixture was heated to reflux for 3 h then concentrated and acidified to pH 1 with aqueous HCl (1 N), the aqueous solution was diluted with MeCN and purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 5 micron, 19×150 mm; flow: 15 mL/min; Gradient: A: H2O+0.05% TFA; B: MeCN+0.05% TFA; 60% A isocratic for 2 min then linear to 0% A in 10 min) to afford the title compound (53%) as a solid.

reactant | methyl 4-(tert-butoxycarbonyl)-5-(4-chlorophenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.5 M | C(C)(C)(C)OC(=O)N1C2=C(C(=C1C1=CC=C(C=C1)Cl)C1CCCCC1)SC(=C2)C(=O)OC | C25H28ClNO4S
reactant | NaOH | 1 N, 12 eq. | [OH-].[Na+]
solvent | DCM TFA | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | MeOH | CO | CH4O
product | 5-(4-chlorophenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 53% | ClC1=CC=C(C=C1)C1=C(C2=C(N1)C=C(S2)C(=O)O)C2CCCCC2 | C19H18ClNO2S
